US05393730
The preparation Of 2-chloro-5-methylnicotinic acid
An aqueous solution of sodium hydroxide (9.2 g) was added to an ice-cooled, stirred solution of methyl 2-chloro-5-methylnicotinoate (35.28 g) in methanol at such a rate so that the temperature of the reaction mixture did not exceed 30° C. The mixture was then stirred at room temperature for 1.5 hours. Solvent was evaporated. The residue was diluted with water and acidified to pH 2 with concentrated hydrochloric acid. The precipitate was collected by filtration, washed with water and dried to yield the title compound as a pale yellow solid, 31.92 g, m.p. 180°-180.5° C.

reactant | sodium hydroxide | 9.2 g | [OH-].[Na+]
reactant | methyl 2-chloro-5-methylnicotinoate | 35.28 g | ClC1=C(C(=O)OC)C=C(C=N1)C | C8H8ClNO2
solvent | methanol | CO | CH4O
product | 2-chloro-5-methylnicotinic acid | ClC1=C(C(=O)O)C=C(C=N1)C | C7H6ClNO2
